US05461036
12-Hydroxydodecanoic acid (1 g) was dissolved in pyridine, and butyroyl chloride (0.59 g) was added to the solution in an ice bath. After 4 hours of stirring, the reaction mixture was distributed into chloroform and water , and the chloroform layer was concentrated to give 12-butyryloxydodecanoic acid (1.28 g).

reactant | 12-Hydroxydodecanoic acid | 1 g | OCCCCCCCCCCCC(=O)O | C12H24O3
reactant | butyroyl chloride | 0.59 g | C(CCC)(=O)Cl | C4H7ClO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 12-butyryloxydodecanoic acid | 1.28 g | C(CCC)(=O)OCCCCCCCCCCCC(=O)O | C16H30O4
